US05840751
6-(2-Benzo[1,3]dioxol-5-yl-ethyl)-5,6-dihydro-4-hydroxy-6-phenyl-2H-pyran-2-one,(+/-)
The title compound was prepared as described in General Method 1 using 0.22 mL of methyl acetoacetate, 90 mg of NaH 60% dispersion in oil, 1 mL of 2.1M n-butyl lithium in hexane, 500 mg of 3-(3,4-methylenedioxyphenyl)propiophenone and 15 mL of tetrahydrofuran. After addition of the ketone, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature and stirred for 2 hours. The crude product was triturated from diethyl ether to afford a solid (m.p. 112°-114° C. ). 1H NMR (CDCl3) δ 2.20-2.28 (m, 2 H), 2.37-2.44 (m, 1 H), 2.61-2.69 (m, 1 H), 2.95 (dd, 2 H), 3.32 (dd, 2 H), 5.90 (s, 2 H), 6.52-6.70 (m, 3 H), 7.33-7.44 (m, 5 H).

reactant | methyl acetoacetate | 0.22 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 90 mg | [H-].[Na+]
reactant | n-butyl lithium | 2.1M, 1 mL | C(CCC)[Li]
reactant | 3-(3,4-methylenedioxyphenyl)propiophenone | 500 mg | C1OC=2C=C(C=CC2O1)CCC(=O)C1=CC=CC=C1 | C16H14O3
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6-(2-Benzo[1,3]dioxol-5-yl-ethyl)-5,6-dihydro-4-hydroxy-6-phenyl-2H-pyran-2-one | O1COC2=C1C=CC(=C2)CCC2(CC(=CC(O2)=O)O)C2=CC=CC=C2 | C20H18O5
